US08563575B2
A mixture of N-(1,3-benzoxazol-2-yl)benzene-1,4-diamine (0.50 g) and 2-chloro-3-nitropyridine (0.352 g) in NMP (3.0 mL) was stirred at 140° C. for 1.5 h. After this time, the reaction mixture was cooled to ambient temperature, diluted with water (50 mL), and extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with brine (100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The residue obtained was purified by chromatography (silica, methylene chloride to 1:9 ethyl acetate/methylene chloride) to afford N-(1,3-benzoxazol-2-yl)-N′-(3-nitropyridin-2-yl)benzene-1,4-diamine (0.335 g) as a red solid.

reactant | N-(1,3-benzoxazol-2-yl)benzene-1,4-diamine | 0.50 g | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)N | C13H11N3O
reactant | 2-chloro-3-nitropyridine | 0.352 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | NMP | 3.0 mL | CN1CCCC1=O | C5H9NO
solvent | water | 50 mL | O | H2O
product | N-(1,3-benzoxazol-2-yl)-N′-(3-nitropyridin-2-yl)benzene-1,4-diamine | 0.335 g | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)NC2=NC=CC=C2[N+](=O)[O-] | C18H13N5O3
